US07767675B2
Step 1. tert-butyl (1S)-1-[(dimethylamino)carbonyl]-2-methylpropylcarbamate
N,N-Diisopropylethylamine (1.0 mL, 5.74 mmol) was added to a mixture of (2S)-2-[(tert-butoxycarbonyl)amino]-3-methylbutanoic acid (0.217 g, 1.0 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.211 g, 1.1 mmol) and dimethylamine in THF (2M, 1.0 mL) in methylene chloride (10 mL). The mixture was stirred overnight at RT. The mixture was washed with water, saturated NaHCO3 solution, brine, dried over Na2SO4, filtered, and concentrated. The residue was chromatographed on silica gel to give the desired product (131 mg, 53.6%).

reactant | N,N-Diisopropylethylamine | 5.74 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-methylbutanoic acid | 1.0 mmol, 0.217 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.1 mmol, 0.211 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 2M, 1.0 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1S)-1-[(dimethylamino)carbonyl]-2-methylpropylcarbamate | 131 mg, 53.6% | CN(C(=O)[C@H](C(C)C)NC(OC(C)(C)C)=O)C | C12H24N2O3
